US07816387B2
N-α-Butoxycarbonyl-trans-4-[(4-methylphenyl)sulfonyl]amino-L-proline methylester
A 3 ml solution of N-α-butoxycarbonyl-trans-4-amino-L-proline methylester 49 mg (0.20 mmol), triethylamine 0.042 ml (0.30 mmol), p-toluenesulfonyl chloride 42 mg (0.22 mmol) in chloroform was stirred at room temperature for 16 hours. To the reaction solution was added water and the mixture was extracted with chloroform and dried on magnesium sulfate. After filtration and concentration of the mixture, the residue was purified by a column chromatography on silica gel (eluted with a mixed solvent of ethyl acetate and hexane) to give 64 mg (0.16 mmol) of the title compound (yield: 80%).

reactant | N-α-butoxycarbonyl-trans-4-amino-L-proline methylester | 0.20 mmol, 49 mg | COC([C@H]1N(C[C@@H](C1)N)C(=O)OCCCC)=O | C11H20N2O4
reactant | triethylamine | 0.30 mmol, 0.042 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 0.22 mmol, 42 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-α-Butoxycarbonyl-trans-4-[(4-methylphenyl)sulfonyl]amino-L-proline methylester | 0.16 mmol, 64 mg, yield: 80% | COC([C@H]1N(C[C@@H](C1)NS(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCCCC)=O | C18H26N2O6S
